### PR TITLE
[Merged by Bors] - feat(Dynamics.TopologicalEntropy): add CoverEntropy

### PR DESCRIPTION
**Pull request by D-Thomine**
Second PR in a sequence to implement the notion of topological entropy for maps using Bowen-Dinaburg's formalism. This file defines a notion of topological entropy for transformations of a uniform space, using covers.

- [x] Dynamical uniformities
- [x] Topological entropy via covers
- [ ] Topological entropy via nets
- [ ] Behaviour under morphisms
- [ ] Behaviour for subsets and unions
- [ ] Behaviour under products
- [ ] Full shift

Things get more serious. The first file was pretty short; this one is the longest.

Paging @pitmonticone @sgouezel

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean [hunk 1]
```diff
@@ -0,0 +1,642 @@
...
+
+/-! ### Dynamical covers -/
+
+/-- Given a subset `F`, an entourage `U` and an integer `n`, a subset `s` is a `(U, n)`-
+dynamical cover of `F` if any orbit of length `n` in `F` is `U`-shadowed by an orbit of length `n`
+of a point in `s`.-/
+def IsDynCoverOf (T : X → X) (F : Set X) (U : Set (X × X)) (n : ℕ) (s : Set X) : Prop :=
+  F ⊆ ⋃ x ∈ s, ball x (dynEntourage T U n)
+
+lemma dynCover_antitone_time {T : X → X} {F : Set X} {U : Set (X × X)} {m n : ℕ} (m_n : m ≤ n)
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:66]: If your lemma statement does not mention `antitone`, your lemma name shouldn't either. Also, since it deals with `IsDynCoverOf`, it should mention `isDynCoverOf`. Since you have an assumption `IsDynCoverOf`, I would probably call it `IsDynCoverOf.of_le` to make sure it can be used through dot notation. 

Could you review all lemma names in the PR according to these conventions?

Comment (D-Thomine) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:66]: @sgouezel: Agree with the general point. There's however another naming issue related to these lemmas. There are three variables you can play with: `F`, `U` and `n`.

Something like `IsDynCoverOf.of_le` can work for the variable `n`, but how can I differentiate between `F` and `U`? I can't call them both `IsDynCoverOf.of_subset`.

Comment (D-Thomine) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean]: BTW, done as well as I could. I've also simplified a few things (avoid using sInf, and removed a small lemma which wasn't used).

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean [hunk 2]
```diff
@@ -0,0 +1,617 @@
...
+    (iUnion₂_mono fun x _ ↦ ball_mono (dynEntourage_antitone T U m_n) x)
+
+lemma IsDynCoverOf.of_entourage_subset {T : X → X} {F : Set X} {U V : Set (X × X)} (U_V : U ⊆ V)
+    {n : ℕ} {s : Set X} (h : IsDynCoverOf T F U n s) :
+    IsDynCoverOf T F V n s := by
+  exact Subset.trans (c := ⋃ x ∈ s, ball x (dynEntourage T V n)) h
+    (iUnion₂_mono fun x _ ↦ ball_mono (dynEntourage_monotone T n U_V) x)
+
+@[simp]
+lemma isDynCoverOf_empty {T : X → X} {U : Set (X × X)} {n : ℕ} :
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:79]: Better say `IsDynCoverOf T ∅ U n s` for an arbitrary `s`. This will be a better simp lemma, as it will apply more often.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean [hunk 3]
```diff
@@ -0,0 +1,617 @@
...
+
+lemma IsDynCoverOf.nonempty_inter {T : X → X} {F : Set X} {U : Set (X × X)} {n : ℕ} {s : Finset X}
+    (h : IsDynCoverOf T F U n s) :
+    ∃ t : Finset X, IsDynCoverOf T F U n t ∧ t.card ≤ s.card
+    ∧ ∀ x ∈ t, ((ball x (dynEntourage T U n)) ∩ F).Nonempty := by
+  classical
+  use Finset.filter (fun x : X ↦ ((ball x (dynEntourage T U n)) ∩ F).Nonempty) s
+  simp only [Finset.coe_filter, Finset.mem_filter, and_imp, imp_self, implies_true, and_true]
+  apply And.intro _ (Finset.card_mono (Finset.filter_subset _ s))
+  intros y y_F
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:111]:
```suggestion
  refine ⟨fun y y_F ↦ ?_, Finset.card_mono (Finset.filter_subset _ s)⟩ 
```
It's more idiomatic to use the anonymous constructor than an explicit `And.intro`, and it lets you introduce the variables right away.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean [hunk 4]
```diff
@@ -0,0 +1,617 @@
...
+  specialize h y_F
+  simp only [Finset.coe_sort_coe, mem_iUnion, Subtype.exists, exists_prop] at h
+  rcases h with ⟨z, z_s, y_Bz⟩
+  simp only [coe_setOf, mem_setOf_eq, mem_iUnion, Subtype.exists, exists_prop]
+  use z
+  exact ⟨⟨z_s, nonempty_of_mem ⟨y_Bz, y_F⟩⟩, y_Bz⟩
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:117]:
```suggestion
  exact ⟨z, ⟨z_s, nonempty_of_mem ⟨y_Bz, y_F⟩⟩, y_Bz⟩
```
Again, anonymous constructor is often better than `use`, because it lets you fill in other fields.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean [hunk 5]
```diff
@@ -0,0 +1,617 @@
...
+
+/-This lemma is the first step in a submultiplicative-like property of `coverMincard`, with
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:119]:
```suggestion
/-- This lemma is the first step in a submultiplicative-like property of `coverMincard`, with
```
Also, it's very nice to explain what the lemma is useful for (definitely keep that!), but adding a sentence describing the content of the lemma is also very helpful.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean [hunk 6]
```diff
@@ -0,0 +1,617 @@
...
+  far-reaching consequences such as explicit bounds for the topological entropy
+  (`coverEntropyInfUni_le_card_div`) and an equality between two notions of topological entropy
+  (`coverEntropyInf_eq_coverEntropySup_of_inv`).-/
+lemma IsDynCoverOf.iterate_le_pow {T : X → X} {F : Set X} (F_inv : MapsTo T F F) {U : Set (X × X)}
+    (U_symm : SymmetricRel U) {m : ℕ} (n : ℕ) {s : Finset X} (h : IsDynCoverOf T F U m s) :
+    ∃ t : Finset X, IsDynCoverOf T F (U ○ U) (m * n) t ∧ t.card ≤ s.card ^ n := by
+  classical
+  rcases F.eq_empty_or_nonempty with (rfl | F_nemp)
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:127]:
```suggestion
  rcases F.eq_empty_or_nonempty with rfl | F_nemp
```
no need for parentheses in `rcases`.

Same thing below.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean [hunk 7]
```diff
@@ -0,0 +1,617 @@
...
+  have s_nemp := h.nonempty F_nemp
+  rcases F_nemp with ⟨x, x_F⟩
+  rcases m.eq_zero_or_pos with (rfl | m_pos)
+  · use {x}
+    simp only [zero_mul, Finset.coe_singleton, Finset.card_singleton]
+    exact And.intro (isDynCoverOf_zero T F (U ○ U) (singleton_nonempty x))
+      <| one_le_pow_of_one_le' (Nat.one_le_of_lt (Finset.Nonempty.card_pos s_nemp)) n
+  have : ∀ β : Fin n → s, ∃ y : X, (⋂ k : Fin n, T^[m * k] ⁻¹' ball (β k) (dynEntourage T U m)) ⊆
+      ball y (dynEntourage T (U ○ U) (m * n)) := by
+    intro t
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:139]:
```suggestion
  have (t : Fin n → s) : ∃ y : X, (⋂ k : Fin n, T^[m * k] ⁻¹' ball (t k) (dynEntourage T U m)) ⊆
      ball y (dynEntourage T (U ○ U) (m * n)) := by
```
`have` lets you write parameters on the left of the colon, to improve readability (and you don't need to `intro` it in the proof).

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean [hunk 8]
```diff
@@ -0,0 +1,617 @@
...
+    rcases (⋂ k : Fin n, T^[m * k] ⁻¹' ball (t k) (dynEntourage T U m)).eq_empty_or_nonempty
+      with (inter_empt | inter_nemp)
+    · rw [inter_empt]
+      use x
+      exact empty_subset _
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:144]:
```suggestion
      exact ⟨x, empty_subset _⟩
```

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean [hunk 9]
```diff
@@ -0,0 +1,617 @@
...
+      replace k_mn := Nat.div_lt_of_lt_mul k_mn
+      specialize z_int ⟨(k / m), k_mn⟩ (k % m) (Nat.mod_lt k m_pos)
+      specialize y_int ⟨(k / m), k_mn⟩ (k % m) (Nat.mod_lt k m_pos)
+      rw [← Function.iterate_add_apply T (k % m) (m * (k / m)), Nat.mod_add_div k m] at y_int z_int
+      exact mem_comp_of_mem_ball U_symm y_int z_int
+  choose! dyncover h_dyncover using this
+  let sn := range dyncover
+  have _ := fintypeRange dyncover
+  use sn.toFinset
+  constructor
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:160]:
```suggestion
  refine ⟨sn.toFinset, ?_, ?_⟩
```

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean [hunk 10]
```diff
@@ -0,0 +1,617 @@
...
+        Prod.map_apply] at y_int z_int ⊢
+      intro k k_mn
+      replace k_mn := Nat.div_lt_of_lt_mul k_mn
+      specialize z_int ⟨(k / m), k_mn⟩ (k % m) (Nat.mod_lt k m_pos)
+      specialize y_int ⟨(k / m), k_mn⟩ (k % m) (Nat.mod_lt k m_pos)
+      rw [← Function.iterate_add_apply T (k % m) (m * (k / m)), Nat.mod_add_div k m] at y_int z_int
+      exact mem_comp_of_mem_ball U_symm y_int z_int
+  choose! dyncover h_dyncover using this
+  let sn := range dyncover
+  have _ := fintypeRange dyncover
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:158]:
```suggestion
  have := fintypeRange dyncover
```

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean [hunk 11]
```diff
@@ -0,0 +1,617 @@
...
+  · rw [Finset.coe_nonempty] at s_nemp
+    have _ : Nonempty s := Finset.Nonempty.coe_sort s_nemp
+    intro y y_F
+    have key : ∀ k : Fin n, ∃ z : s, y ∈ T^[m * k] ⁻¹' ball z (dynEntourage T U m) := by
+      intro k
+      have := h (MapsTo.iterate F_inv (m * k) y_F)
+      simp only [Finset.coe_sort_coe, mem_iUnion, Subtype.exists, exists_prop] at this
+      rcases this with ⟨z, z_s, hz⟩
+      use ⟨z, z_s⟩
+      exact hz
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:170]:
```suggestion
      exact ⟨⟨z, z_s⟩, hz⟩
```

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean [hunk 12]
```diff
@@ -0,0 +1,617 @@
...
+    simp only [Finset.coe_image, Finset.coe_univ, image_univ, mem_range, exists_apply_eq_apply,
+      true_and]
+    apply h_dyncover
+    simp only [mem_iInter, mem_preimage, Finset.mem_range]
+    exact ht
+  · rw [toFinset_card]
+    apply le_trans (Fintype.card_range_le dyncover)
+    simp only [Fintype.card_fun, Fintype.card_coe, Fintype.card_fin, le_refl]
+
+lemma isDynCoverOf_compact_continuous [UniformSpace X] {T : X → X} (h : UniformContinuous T)
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:186]: If the lemma involves `IsCompact` and `UniformContinuous`, the lemma name should probably be `exists_isDynCoverOf_of_isCompact_uniformContinuous` (and maybe swap the order of the assumptions to match the name of the lemma).

**Review by sgouezel — COMMENTED** [review]
First pass on the beginning of the file. Looks great to me! Can you already have a look at the rest of the file taking into account the comments I made on the first 200 lines?

Also, can you merge master to fix the conflict?

**Comment by pitmonticone** [comment]
Just merged master to fix the conflict.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean (hunk 6 above)
Comment (pitmonticone) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:127]: Done. Thanks.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean (hunk 3 above)
Comment (pitmonticone) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:111]: Done. Thanks.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean (hunk 7 above)
Comment (pitmonticone) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:139]: Done. Thanks.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean (hunk 8 above)
Comment (pitmonticone) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:144]: Done. Thanks.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean (hunk 10 above)
Comment (pitmonticone) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:158]: Done, thanks.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean (hunk 11 above)
Comment (pitmonticone) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:170]: Done, thanks.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean (hunk 12 above)
Comment (pitmonticone) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:186]: Done. Thanks.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean (hunk 4 above)
Comment (pitmonticone) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:116]: Done, thanks.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean (hunk 9 above)
Comment (sgouezel) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:154]: You resolved the conversation, but I don't see the change. Did you forget to push?

Comment (pitmonticone) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean]: Sorry for this, pushed now.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean (hunk 2 above)
Comment (D-Thomine) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean]: Done.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean (hunk 5 above)
Comment (D-Thomine) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean]: Done. Thanks for your comments!

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean [hunk 13]
```diff
@@ -0,0 +1,590 @@
...
+    simp only [mem_iUnion, exists_prop] at s_cover
+    rcases s_cover with ⟨y, y_s, _⟩
+    simp only [dynEntourage, Nat.lt_one_iff, iInter_iInter_eq_left, Function.iterate_zero,
+      Prod.map_id, preimage_id_eq, id_eq, mem_iUnion]
+    use y, y_s
+  rcases this.iterate_le_pow F_inv V_symm n with ⟨t, t_dyncover, t_card⟩
+  rw [one_mul n] at t_dyncover
+  exact ⟨t, t_dyncover.of_entourage_subset V_U⟩
+
+/-! ### Minimal cardinal of dynamical covers -/
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:207]:
```suggestion
/-! ### Minimal cardinality of dynamical covers -/
```
(In English, cardinal is for cardinal numbers, cardinality is for number of elements in a set). Same thing below.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean [hunk 14]
```diff
@@ -0,0 +1,590 @@
...
+/-- The smallest cardinal of a `(U, n)`-dynamical cover of `F`. Takes values in `ℕ∞`, and is
+  infinite if and only if `F` admits no finite dynamical cover.-/
+noncomputable def coverMincard (T : X → X) (F : Set X) (U : Set (X × X)) (n : ℕ) : ℕ∞ :=
+  ⨅ (s : Finset X) (_ : IsDynCoverOf T F U n s), (s.card : ℕ∞)
+
+lemma coverMincard_le_card {T : X → X} {F : Set X} {U : Set (X × X)} {n : ℕ} {s : Finset X}
+    (h : IsDynCoverOf T F U n s) :
+    coverMincard T F U n ≤ s.card := iInf₂_le s h
+
+lemma coverMincard_monotone_time (T : X → X) (F : Set X) (U : Set (X × X)) :
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:218]:
```suggestion
lemma coverMincard_monotone (T : X → X) (F : Set X) (U : Set (X × X)) :
```

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean [hunk 15]
```diff
@@ -0,0 +1,590 @@
...
+    Monotone (fun n : ℕ ↦ coverMincard T F U n) :=
+  fun _ _ m_n ↦ biInf_mono fun _ h ↦ h.of_le m_n
+
+lemma coverMincard_antitone_entourage (T : X → X) (F : Set X) (n : ℕ) :
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:222]:
```suggestion
lemma coverMincard_antitone (T : X → X) (F : Set X) (n : ℕ) :
```

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean [hunk 16]
```diff
@@ -0,0 +1,590 @@
...
+    coverMincard T F U n = 0 ↔ F = ∅ := by
+  refine Iff.intro (fun h ↦ subset_empty_iff.1 ?_) (fun F_empt ↦ by rw [F_empt, coverMincard_empty])
+  have := coverMincard_finite_iff T F U n
+  rw [h, eq_true ENat.zero_lt_top, true_iff] at this
+  simp only [IsDynCoverOf, Finset.mem_coe, Nat.cast_eq_zero, Finset.card_eq_zero, exists_eq_right,
+    Finset.not_mem_empty, iUnion_of_empty, iUnion_empty] at this
+  exact this
+
+lemma coverMincard_pos_iff (T : X → X) (F : Set X) (U : Set (X × X)) (n : ℕ) :
+    1 ≤ coverMincard T F U n ↔ F.Nonempty := by
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:260]:
```suggestion
    0 < coverMincard T F U n ↔ F.Nonempty := by
```
(Oherwise, use `one_le_coverMincard_iff` as the lemma name)

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean [hunk 17]
```diff
@@ -0,0 +1,590 @@
...
+lemma coverMincard_univ (T : X → X) {F : Set X} (h : F.Nonempty) (n : ℕ) :
+    coverMincard T F univ n = 1 := by
+  apply le_antisymm _ ((coverMincard_pos_iff T F univ n).2 h)
+  rcases h with ⟨x, _⟩
+  have := isDynCoverOf_univ T F n (singleton_nonempty x)
+  rw [← Finset.coe_singleton] at this
+  apply le_of_le_of_eq (coverMincard_le_card this)
+  rw [Finset.card_singleton, Nat.cast_one]
+
+lemma coverMincard_iterate_le_pow {T : X → X} {F : Set X} (F_inv : MapsTo T F F) {U : Set (X × X)}
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:282]:
```suggestion
lemma coverMincard_mul_le_pow {T : X → X} {F : Set X} (F_inv : MapsTo T F F) {U : Set (X × X)}
```

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean [hunk 18]
```diff
@@ -0,0 +1,590 @@
...
+  rcases n.eq_zero_or_pos with rfl | n_pos
+  · rw [mul_zero, coverMincard_zero T F_nonempty (U ○ U), pow_zero]
+  rcases eq_top_or_lt_top (coverMincard T F U m) with h | h
+  · exact h ▸ le_of_le_of_eq (le_top (α := ℕ∞)) (ENat.top_pow n_pos).symm
+  · rcases (coverMincard_finite_iff T F U m).1 h with ⟨s, s_cover, s_coverMincard⟩
+    rcases s_cover.iterate_le_pow F_inv U_symm n with ⟨t, t_cover, t_le_sn⟩
+    rw [← s_coverMincard]
+    exact le_trans (coverMincard_le_card t_cover) (WithTop.coe_le_coe.2 t_le_sn)
+
+lemma coverMincard_comp_le_pow {T : X → X} {F : Set X} (F_inv : MapsTo T F F) {U : Set (X × X)}
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:296]:
```suggestion
lemma coverMincard_le_pow {T : X → X} {F : Set X} (F_inv : MapsTo T F F) {U : Set (X × X)}
```
There is no composition in the lemma (apart from the entourages, but it's already there in the other lemmas and you never mentioned it).

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean [hunk 19]
```diff
@@ -0,0 +1,590 @@
...
+  apply add_le_add_right (mul_le_mul_of_nonneg_left _ h_log)
+  apply le_of_le_of_eq <| div_le_div_right_of_nonneg (Nat.cast_pos'.2 n_pos).le (natCast_div_le n m)
+  rw [EReal.div_div, mul_comm, ← EReal.div_div, n_div_n, one_div (m : EReal)]
+
+/-! ### Cover entropy of entourages -/
+
+open Filter
+
+/-- The entropy of an entourage `U`, defined as the exponential rate of growth of the size of the
+  smallest `(n, U)`-refined cover of `F`. Takes values in the space fo extended real numbers
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:379]:
```suggestion
  smallest `(n, U)`-refined cover of `F`. Takes values in the space of extended real numbers
```

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean [hunk 20]
```diff
@@ -0,0 +1,590 @@
...
+  `[-∞, +∞]`. This first version uses a `liminf`.-/
+noncomputable def coverEntropyInfUni (T : X → X) (F : Set X) (U : Set (X × X)) :=
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:381]: I'm not sure about the name. What is `Uni` supposed to mean?

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean [hunk 21]
```diff
@@ -0,0 +1,590 @@
...
+      exact Nat.mul_le_mul_left N (Nat.one_le_of_lt n_pos)
+  · have := log_coverMincard_iterate_le F_inv U_symm n
+      (lt_of_lt_of_le zero_lt_one (le_max_left 1 N))
+    rw [mul_comm n (max 1 N)] at this
+    apply le_of_eq_of_le _ (div_le_div_right_of_nonneg (Nat.cast_nonneg' n) this)
+    rw [div_div]
+    congr
+    exact natCast_mul (max 1 N) n
+
+lemma coverEntropyInfUni_le_log_card_div {T : X → X} {F : Set X} (F_inv : MapsTo T F F)
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:455]: Maybe put this in the `IsDynCoverOf` namespace? Also, wouldn't it be better to give it for the `SupUni`?

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean [hunk 22]
```diff
@@ -0,0 +1,590 @@
...
+  Note that this supremum is approached by taking small uniformities. This first version uses a
+  `liminf`.-/
+noncomputable def coverEntropyInf [UniformSpace X] (T : X → X) (F : Set X) :=
+  ⨆ U ∈ 𝓤 X, coverEntropyInfUni T F U
+
+/-- The entropy of `T` restricted to `F`, obtained by taking the supremum over entourages.
+  Note that this supremum is approached by taking small uniformities. This second version uses a
+  `limsup`.-/
+noncomputable def coverEntropySup [UniformSpace X] (T : X → X) (F : Set X) :=
+  ⨆ U ∈ 𝓤 X, coverEntropySupUni T F U
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:522]: I have a problem that, with the way the results are currently phrased, the end user will not know if he should use `coverEntropInf` or `coverEntropySup` as the canonical one (since they coincide in the most relevant cases) and different users might pick different choices. I guess it's worth making one choice more canonical than the other by using the name `coverEntropy` -- and explaining carefully in the docstrings, both of the definition and the file-level docstring, what is going on here.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean [hunk 23]
```diff
@@ -0,0 +1,590 @@
...
+
+## Main definitions
+- `IsDynCoverOf`: property that dynamical balls centered on a subset `s` cover a subset `F`.
+- `coverMincard`: minimal cardinal of a dynamical cover. Takes values in `ℕ∞`.
+- `coverEntropyInfUni`/`coverEntropySupUni`: exponential growth of `coverMincard`. The former is
+defined with a `liminf`, the later with a `limsup`. Take values in `EReal`.
+- `coverEntropyInf`/`coverEntropySup`: supremum of `coverEntropyInfUni`/`coverEntropySupUni` over
+all entourages (or limit as the entourages go to the diagonal). These are Bowen-Dinaburg's
+versions of the topological entropy with covers. Take values in `EReal`.
+
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:37]: You need to mention also the main theorems here, notably the submultiplicativity one at finite times, and the fact that `coverEntropInf = coverEntropySup` when `F` is invariant.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean (hunk 13 above)
Comment (pitmonticone) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:207]: Done, thanks.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean (hunk 14 above)
Comment (pitmonticone) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:218]: Done, thanks.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean (hunk 15 above)
Comment (pitmonticone) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:222]: Done, thanks.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean (hunk 17 above)
Comment (pitmonticone) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:282]: Done, thanks.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean (hunk 18 above)
Comment (pitmonticone) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:296]: Done, thanks.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean (hunk 19 above)
Comment (pitmonticone) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean]: Done, thanks.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean [hunk 24]
```diff
@@ -0,0 +1,590 @@
...
+lemma coverEntropyInfUni_univ (T : X → X) {F : Set X} (h : F.Nonempty) :
+    coverEntropyInfUni T F univ = 0 := by
+  simp [coverEntropyInfUni, coverMincard_univ T h]
+
+lemma coverEntropySupUni_univ (T : X → X) {F : Set X} (h : F.Nonempty) :
+    coverEntropySupUni T F univ = 0 := by
+  simp [coverEntropySupUni, coverMincard_univ T h]
+
+lemma coverEntropyInfUni_le_log_coverMincard_div {T : X → X} {F : Set X} (F_inv : MapsTo T F F)
```
Comment (sgouezel) [inline Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:436]: Wouldn't it be better to deduce this lemma from `coverEntropySupUni_le_log_coverMincard_div` and the trivial inequality? Or remove it altogether, as it's a trivial consequence of the other one?

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean (hunk 14 above)
Comment (D-Thomine) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean]: Reverting this one.

There is a statement in another file (but under the same namespace) which goes

`Monotone (fun F : Set X ↦ coverMincard T F U n)`

I know that `time` is not a good descriptor, but I need a way to differentiate these two statements.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean (hunk 16 above)
Comment (D-Thomine) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:260]: Done.

I changed the name of the lemma ; the lower bound `1` is too useful when applying logarithms.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean (hunk 20 above)
Comment (D-Thomine) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:381]: It stands for "entourage", obviously.

I've changed `Uni` for `Ent`. I'm still looking for better ideas, but this object has no standard name that I know of, and this is the best we could come up with.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean (hunk 22 above)
Comment (D-Thomine) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:522]: Good idea.

I've chosen to make the `limsup` definition canonical. I don't think it changes much, but there is a remote reason why it might avoid some rewrites (thanks to `coverEntropyEnt_le_log_card_div`, getting upper bounds on the `liminf`/`limsup` versions is essentially the same ; lower bounds on the entropy are more tricky, and easier with a `limsup` than a `liminf`).

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean (hunk 21 above)
Comment (D-Thomine) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:455]: Yes and yes. Done.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean (hunk 23 above)
Comment (D-Thomine) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:37]: Done. I've also added `IsDynCoverOf.coverEntropyEnt_le_log_card_div`, which is of great practical use.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean (hunk 24 above)
Comment (D-Thomine) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:436]: Good idea. I've just removed the `Inf` versions.

I've also proved directly `coverEntropyEnt_finite_of_isCompact_invariant` and removed the `Inf` version.

File: Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean [hunk 25]
```diff
@@ -0,0 +1,590 @@
...
+
+/-- From a dynamical cover `s` with entourage `U` and time `m`, we construct covers with entourage
+`U ○ U` and any multiple `m * n` of `m` with controlled cardinality. This lemma is the first step
+in a submultiplicative-like property of `coverMincard`, with consequences such as explicit bounds
+for the topological entropy (`coverEntropyInfUni_le_card_div`) and an equality between two notions
+of topological entropy (`coverEntropyInf_eq_coverEntropySup_of_inv`).-/
+lemma IsDynCoverOf.iterate_le_pow {T : X → X} {F : Set X} (F_inv : MapsTo T F F) {U : Set (X × X)}
+    (U_symm : SymmetricRel U) {m : ℕ} (n : ℕ) {s : Finset X} (h : IsDynCoverOf T F U m s) :
+    ∃ t : Finset X, IsDynCoverOf T F (U ○ U) (m * n) t ∧ t.card ≤ s.card ^ n := by
+  classical
```
[the remark this answers is not in the document]
Comment (D-Thomine) [reply Mathlib/Dynamics/TopologicalEntropy/CoverEntropy.lean:141]: Done, I've added documentation to: `IsDynCoverOf.iterate_le_pow`, `nonempty_inter_of_coverMincard`, `log_coverMincard_le_add`.

**Comment by sgouezel** [comment]
bors r+
Thanks a lot!
